US07932272B2
2-Amino-6-(2-ethoxy-vinyl)-nicotinic acid methyl ester
To a solution of ethyl ethynyl ether (3.6 g, 25.7 mmol) in tetrahydrofuran (10 mL) was added catechol borane (3.08 g, 25.7 mmol) on an ice bath. Immediately, the cold bath was removed, the reaction mixture was allowed to room temperature, and then, the solution was stirred for 1.5 hours under reflux. This reaction mixture was allowed to room temperature. To this mixture solution were added 2-amino-6-chloro-nicotinic acid methyl ester (1.6 g, 8.57 mmol), sodium hydroxide powder (1.13 g, 28.3 mmol), tetrakis(triphenylphosphine)palladium(0) (0.99 g, 0.857 mmol) and dioxane (20 mL), which was then stirred for 2 hours under reflux. The reaction mixture was allowed to room temperature, and partitioned into water and ethyl acetate. The organic layer was separated, the solvent was evaporated in vacuo, the residue was purified by silica gel column chromatography, and the title compound (1.30 g, 5.85 mmol, 68%) was obtained as a brown solid.

reactant | ethyl ethynyl ether | 25.7 mmol, 3.6 g | C(#C)OCC | C4H6O
reactant | catechol borane | 25.7 mmol, 3.08 g | [B]1OC2=CC=CC=C2O1 | C6H4BO2
reactant | 2-amino-6-chloro-nicotinic acid methyl ester | 8.57 mmol, 1.6 g | COC(C1=C(N=C(C=C1)Cl)N)=O | C7H7ClN2O2
reactant | sodium hydroxide | 28.3 mmol, 1.13 g | [OH-].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.857 mmol, 0.99 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 2-Amino-6-(2-ethoxy-vinyl)-nicotinic acid methyl ester | 5.85 mmol, 1.30 g, 68% | COC(C1=C(N=C(C=C1)C=COCC)N)=O | C11H14N2O3
